US06821967B2
9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-[1.4]diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-[1.4]diazepan-1-yl-1-methyl-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-[1.4]diazepan-1-yl-1-methyl-1H-benzimidazole | N1(CCNCCC1)C1=NC2=C(N1C)C=CC=C2 | C13H18N4
product | 9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-[1.4]diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CCC1)C1=NC2=C(N1C)C=CC=C2)(F)F | C33H36F3N5O
